US06756378B2
To a stirred solution of N-tert-butoxycarbonyl-2-methylproline methyl ester (3.20 g, 0.0131 mol) in THF (20mL) was added 1N NaOH (15.7 mL) at room temp. After the resulting mixture was stirred for 24 hr, the mixture was diluted with water and washed with EtOAc. The separated aqueous layer was acidified by the addition of 1N HCl, and extracted with EtOAc. The extract was dried over Na2SO4 and evaporated in vacuo to afford 1.71 g(57%) N-tert-butoxycarbonyl-2-methylproline as a yellow syrup. 1H-NMR (CDCl3) δ1.42 (s, 9H), 1.48 (s, 3H), 1.88-2.31 (m, 4H), 3.34-3.57 (m, 2H), 9.35 (br s, 1H)

reactant | N-tert-butoxycarbonyl-2-methylproline methyl ester | 0.0131 mol, 3.20 g | COC([C@]1(N(CCC1)C(=O)OC(C)(C)C)C)=O | C12H21NO4
reactant | NaOH | 1N, 15.7 mL | [OH-].[Na+]
solvent | THF | 20mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-tert-butoxycarbonyl-2-methylproline | 1.71 g, 57% | C(C)(C)(C)OC(=O)N1[C@](C(=O)O)(CCC1)C | C11H19NO4
